US04636513
(4) 4-Methyl-1-(5-methyl-4-isoxazolylcarbonyl)-piperidine
of melting point 44° to 45° C., prepared from 5-methyl-4-isoxazolecarboxylic acid chloride and 4-methyl-piperidine.

reactant | 5-methyl-4-isoxazolecarboxylic acid chloride | CC1=C(C=NO1)C(=O)Cl | C5H4ClNO2
reactant | 4-methyl-piperidine | CC1CCNCC1 | C6H13N
product | 4-Methyl-1-(5-methyl-4-isoxazolylcarbonyl)-piperidine | CC1CCN(CC1)C(=O)C=1C=NOC1C | C11H16N2O2
